US04482762
A Grignard reagent, prepared by reacting 18.7 g (0.77 g atom) of magnesium in 100 ml of ether and 105.4 g (0.77 mol) of 2-bromobutane in 300 ml of ether, is reacted with 62.72 g (0.64 mol) of 2-methyl-2-pentenal in 200 ml of ether in a manner analogous to Example 5. Fractional distillation of the crude product (98.8 g) over a 20 cm Widmer column gives 68.4 g (68.5%) of olfactorily good 4,6-dimethyl-3-octen-5-ol of boiling point 83° C./12 mm Hg.

reactant | magnesium | 18.7 g | [Mg] | Mg
reactant | 2-bromobutane | 0.77 mol, 105.4 g | BrC(C)CC | C4H9Br
reactant | 2-methyl-2-pentenal | 0.64 mol, 62.72 g | CC(C=O)=CCC | C6H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4,6-dimethyl-3-octen-5-ol | CC(=CCC)C(C(CC)C)O | C10H20O
